US05120840
A solution of formic acid (0.22 mL, 5.84 mmole) and acetic anhydride (0.46 mL, 4.76 mmole) is heated at reflux temperature for 2 hours under a nitrogen atmosphere. The cooled solution is diluted with tetrahydrofuran (5 mL) and a solution of 4-amino-N-(1,1-dimethylethyl)-3-oxoandrost-4-ene-17β-carboxamide, (0.35 g, 0.91 mmole) in tetra-hydrofuran (10 mL) is added. The reaction is stirred overnight at room temperature and then diluted with water (25 mL). A gummy material separated which is extracted into diethyl ether-dichloromethane and washed with saturated aqueous sodium bicarbonate. The dried solution is concentrated to a yellow foam which is purified by flash chromatography (hexane-50% ethyl acetate then ethyl acetate) to give 4-formamido-N-(1,1-dimethylethyl)-3-oxoandrost-4-ene-17β-carboxamide (0.25 g, 67.6%, diethyl ether).

reactant | formic acid | 5.84 mmole, 0.22 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 4.76 mmole, 0.46 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-amino-N-(1,1-dimethylethyl)-3-oxoandrost-4-ene-17β-carboxamide | 0.91 mmole, 0.35 g | NC1=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)C(=O)NC(C)(C)C | C24H38N2O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetra-hydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 4-formamido-N-(1,1-dimethylethyl)-3-oxoandrost-4-ene-17β-carboxamide | 0.25 g, 67.6% | C(=O)NC1=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)C(=O)NC(C)(C)C | C25H38N2O3
